US06589724B1
Synthesis of Benzotriazole Monomer B1-1:
A solution of the above acid chloride (ca. 0.02M) in tetrahydrofuran (10 ml) was added over 8 minutes to a stirred solution of 7-aminobenzotriazole (2.5 g, 0.019M) in pyridine (20 ml). The mixture was stirred at room temperature for 4 hours, then 0.88M ammonia (0.5 ml) was added and stirring was continued for another 20 minutes. The mixture was poured into ice/water (200 ml) to give an oil which soon solidified. 10M Hydrochloric acid (25 ml) was added and the acidified mixture was stirred for 5 minutes before the resulting pink solid was filtered off, washed with water and dried, 5.8 g. The solid was added to methanol (25 ml) and the suspension was stirred at room temperature for 1 hour. Filtration of the mixture resulted in removal of most of the colour from the solid, which was further washed with methanol and dried, 4.3 g. The solid was heated briefly on a steam-bath with tetrahydrofuran (50 ml) to give a cloudy solution. This was cooled and filtered through Kieselguhr and the filtrate was concentrated under reduced pressure to leave an off-white solid. Methanol (25 ml) was added and the mixture was stirred at room temperature for 2 hours, then the resulting white solid was filtered off, washed with methanol and dried to give B1-1, 15 g (52%). The positive and negative ion electrospray mass spectra were consistent with the structure of the required product. LCMS indicated purity of >98%, which was also supported by the 1H-nmr spectrum.

reactant | 7-aminobenzotriazole | 0.019M, 2.5 g | NC1=CC=CC2=C1NN=N2 | C6H6N4
reactant | ammonia | 0.88M, 0.5 ml | N | H3N
reactant | Hydrochloric acid | 10M, 25 ml | Cl | ClH
reactant | Methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
